* Z:\home\muffin\Documents\fall-2013\thesis\simulations\adc-in.asc
XU1 N003 N001 vcc vee N002 LT1632
V1 vee 0 -10
V2 vcc 0 10
R1 N001 voff 10k
R2 N002 N001 1k
V3 voff 0 PULSE(-10 10 3m 10m 10m 1m 21m)
V4 N003 0 SINE(0 1 1k)
.tran 0 13m 3m
.lib LTC.lib
.backanno
.end
